US07476399B2
N-(heptan-4-yl)benzofuran-5-carboxamide
Prepared in a similar manner to example 4 using benzofuran-5-carboxylic acid and heptan-4-amine. Yield 41%. MS (M+H, 260.2).

reactant | benzofuran-5-carboxylic acid | O1C=CC2=C1C=CC(=C2)C(=O)O | C9H6O3
reactant | heptan-4-amine | CCCC(CCC)N | C7H17N
product | N-(heptan-4-yl)benzofuran-5-carboxamide | Yield 41% | CCCC(CCC)NC(=O)C=1C=CC2=C(C=CO2)C1 | C16H21NO2
